* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 10:57:49 am ist

* u5  5 21 d_inverter
* u6  1 4 5 21 21 8 10 d_srlatch
e2  18 0 23 14 10000
* u1  22 14 7 6 15 16 3 13 port
r8  9 2 1500
q1  22 2 3 qnom
r7  18 20 25
r6  17 19 25
e1  17 0 16 15 10000
r4  16 15 2e6
r5  23 14 2e6
r3  23 22 5000
r2  15 23 5000
r1  13 15 5000
a1 5 21 u5
a2 1 4 5 21 21 8 10 u6
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_srlatch, NgSpice Name: d_srlatch
.model u6 d_srlatch(ic=0 sr_load=1.0e-12 set_delay=1.0e-9 set_load=1.0e-12 sr_delay=1.0e-9 reset_load=1.0e-12 enable_delay=1.0e-9 reset_delay=1.0e-9 rise_delay=1.0e-9 fall_delay=1.0e-9 enable_load=1.0e-12 ) 
.ac oct 897897 kjadsfhHz jhdsakjHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
